US06117870
The same reaction procedure used in the reference of Tetrahedron Letters. Vol 35 839-842, 1994 was made. 15.78 g (84.7 mmol) of 1-(t-butoxycarbonylamino)piperazine, 6.85 ml (84.7 mmol) of pyridine and 15.1 ml (84.7 mmol) of diisopropylethylarine were dissolved in 200 ml of anhydrous toluene and then carbonic acid gas was intromitted for 1 hour under -10° C. The reaction solution was added to 80 ml of toluene solution of 10.6 ml (84.7 mmol) of thionylchloride being cooled under -10° C. and stirred for 1 hour. The reaction solution was added to 0.1 N hydrochloric acid and the toluene layer was separated out. The reaction mixture was dried over anhydride sodium sulfate and concentrated under reduced pressure. These crystals thus obtained were washed with hexane, whereby 13.7 g of 4-(2-methyl-2-propyloxycarbonyl)piperazine-1-carbonylchloride was obtained.

reactant | 1-(t-butoxycarbonylamino)piperazine | 84.7 mmol, 15.78 g | C(C)(C)(C)OC(=O)NN1CCNCC1 | C9H19N3O2
reactant | pyridine | 84.7 mmol, 6.85 ml | N1=CC=CC=C1 | C5H5N
reactant | carbonic acid | C(O)(O)=O | CH2O3
reactant | thionylchloride | 84.7 mmol, 10.6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | hydrochloric acid | 0.1 N | Cl | ClH
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(2-methyl-2-propyloxycarbonyl)piperazine-1-carbonylchloride | 13.7 g | CC(C)(C)OC(=O)N1CCN(CC1)C(=O)Cl | C10H17ClN2O3
